US06069156
To a stirring suspension of aluminum chloride (294 mg) and acetyl chloride (0.08 ml) in dichloromethane (10 ml) was added methyl 2-propylindole-6-carboxylate (200 mg), and the mixture was stirred at 20° C. for 1 hour. The resulting mixture was poured onto ice and extracted with ethyl acetate. The combined organic phase was washed with aqueous sodium bicarbonate and brine, then dried over sodium sulfate and evaporated in vacuo. The residue was triturated with isopropyl ether to give methyl 3-acetyl-2-propylindole-6-carboxylate (78 mg) as colorless crystals.

reactant | aluminum chloride | 294 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.08 ml | C(C)(=O)Cl | C2H3ClO
reactant | methyl 2-propylindole-6-carboxylate | 200 mg | C(CC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C13H15NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 3-acetyl-2-propylindole-6-carboxylate | 78 mg | C(C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCC | C15H17NO3
